US04070539
(1-Oxo-2-bromo-2-ethyl-4,6,7-trimethyl-5-indanyloxy)-acetic acid is prepared by following substantially the same procedure as described in Example 1, Step B, using the following reagents: (1-oxo-2-ethyl-4,6,7-trimethyl-5-indanyloxy)-acetic acid (11.79 g., 0.0427 mole), bromine (7.51 g., 0.0470 mole), acetic acid (118 ml.) and 48% hydrobromic acid (2 drops). The crude yield is 14.76 g. (97%). Recrystallization from butyl chloride give (1-oxo-2-bromo-2-ethyl-4,6,7-trimethyl-5-indanyloxy)acetic acid as white prisms, m.p. 144°-145° C.

reactant | (1-oxo-2-ethyl-4,6,7-trimethyl-5-indanyloxy)-acetic acid | 0.0427 mole, 11.79 g | O=C1C(CC2=C(C(=C(C(=C12)C)C)OCC(=O)O)C)CC | C16H20O4
reactant | bromine | 0.0470 mole, 7.51 g | BrBr | Br2
catalyst | hydrobromic acid | 2 drops | Br | BrH
solvent | acetic acid | 118 ml | C(C)(=O)O | C2H4O2
product | (1-oxo-2-bromo-2-ethyl-4,6,7-trimethyl-5-indanyloxy)acetic acid | O=C1C(CC2=C(C(=C(C(=C12)C)C)OCC(=O)O)C)(CC)Br | C16H19BrO4
